US06927228B2
(b) N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methyloctanamide
In a manner similar to that of Example 1(g), starting with 220 mg (0.5 mmol) of N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-N-methyloctanamide in 10 ml of dioxane, 120 mg (53%) of the desired product, with a melting point of 36° C., are obtained.

reactant | N-[4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-ylmethyl]-N-methyloctanamide | 0.5 mmol, 220 mg | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CCCCCCC)=O)C | C26H30N2O3S
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | N-[4′-(2,4-Dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methyloctanamide | 120 mg, 53% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CCCCCCC)=O)C | C26H32N2O3S
